US07612212B2
To a solution of {(R)-[4-(2-tert-butoxy-ethoxy)-phenyl]-[(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-3,3-dimethyl-butylcarbamoyl]-methyl}-carbamic acid tert-butyl ester (652 mg, 0.91 mmol) in acetonitrile (6 mL) was added 4 N hydrogen chloride in dioxane (1 mL, 4 mmol) and the mixture stirred at 40° C. for 30 minutes. The reaction mixture was concentrated in vacuo and the residue suspended in ice cold water. The aqueous suspension was neutralized to basic pH with saturated aqueous sodium carbonate solution then extracted with dichloromethane (three times). The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo and the residue purified by chromatography over silica gel gradient eluted from 100% dichloromethane up to 10% methanol/90% dichloromethane in 30 minutes. Concentration of the product containing fractions gave (S)-2-{(R)-2-amino-2-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetylamino}-4,4-dimethyl-pentanoic acid (2-fluoro-4-iodo-phenyl)-amide (490 mg, 87%).

reactant | {(R)-[4-(2-tert-butoxy-ethoxy)-phenyl]-[(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-3,3-dimethyl-butylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | 0.91 mmol, 652 mg | C(C)(C)(C)OC(N[C@@H](C(N[C@@H](CC(C)(C)C)C(NC1=C(C=C(C=C1)I)F)=O)=O)C1=CC=C(C=C1)OCCOC(C)(C)C)=O | C32H45FIN3O6
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-2-{(R)-2-amino-2-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetylamino}-4,4-dimethyl-pentanoic acid (2-fluoro-4-iodo-phenyl)-amide | 490 mg, 87% | FC1=C(C=CC(=C1)I)NC([C@H](CC(C)(C)C)NC([C@@H](C1=CC=C(C=C1)OCCOC(C)(C)C)N)=O)=O | C27H37FIN3O4
